US08486970B2
To a solution of 573 mg of (3RS,4RS)—N-(2-chloroethyl)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 10 ml of DMF were added 150 mg of sodium iodide and 340 mg of 1H-pyrazole, followed by stirring at 100° C. for 24 hours. Ethyl acetate and water were added thereto to carry out a liquid separation operation, and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain a colorless crystal. The crystal was recrystallized from ethanol to obtain 176 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[2-(1H-pyrazol-1-yl)ethyl]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless powdered crystal.

reactant | (3RS,4RS)—N-(2-chloroethyl)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 573 mg | ClCCNC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C25H28Cl3N3O4S
reactant | sodium iodide | 150 mg | [I-].[Na+]
reactant | 1H-pyrazole | 340 mg | N1N=CC=C1 | C3H4N2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[2-(1H-pyrazol-1-yl)ethyl]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 176 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NCCN1N=CC=C1)=O)C1C(CCCC1)NS(=O)(=O)C | C28H31Cl2N5O4S
